US08389539B2
2-(4-Cyclopropyl-phenyl)-8-(2-hydroxy-2-phenyl-ethyl)-2,8-diaza-spiro[4.5]decan-1-one
A mixture of 34.6 mg (0.128 mmol) 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one, 23 mg (0.192 mmol) 2-phenyl-oxirane and 38 mg (0.384 mmol) NEt3 in 2 mL DCM were stirred at 50° C. for 2 h and concentrated. The residue was taken up in methanol and subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and NEt3. The product containing fractions were evaporated to yield 7.1 mg (14%) of the title compound. MS m/e: 391.4 [M+H]+.

reactant | 2-(4-Cyclopropyl-phenyl)-2,8-diaza-spiro[4.5]decan-1-one | 0.128 mmol, 34.6 mg | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCNCC2)=O | C17H22N2O
reactant | 2-phenyl-oxirane | 0.192 mmol, 23 mg | C1(=CC=CC=C1)C1OC1 | C8H8O
reactant | NEt3 | 0.384 mmol, 38 mg | CCN(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Cyclopropyl-phenyl)-8-(2-hydroxy-2-phenyl-ethyl)-2,8-diaza-spiro[4.5]decan-1-one | 7.1 mg, 14% | C1(CC1)C1=CC=C(C=C1)N1C(C2(CC1)CCN(CC2)CC(C2=CC=CC=C2)O)=O | C25H30N2O2
